US08530504B2
tert-Butyl[3-bromo-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate
To an aqueous solution (10 mL) of 7-[(tert-butoxycarbonyl)amino]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylic acid (180 mg, 0.53 mmol), were added potassium hydroxide (34.7 mg, 0.53 mmol) and silver carbonate (93.6 mg, 0.55 mmol), and the mixture was stirred at room temperature for 1.5 hours. The solid was filtered, washed with water, and then dried. To a mixture of the obtained solid and carbon tetrachloride (3.6 mL) was added bromine (29.6 μL, 0.58 mmol), and the mixture was stirred at 75° C. for five hours. To the reaction mixture was added chloroform, and the insoluble matters were filtered off, and then the solvent was distilled off under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 33% then 66%) to obtain 94.0 mg (0.25 mmol) of the title compound.

reactant | 7-[(tert-butoxycarbonyl)amino]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylic acid | 0.53 mmol, 10 mL, 180 mg | C(C)(C)(C)OC(=O)NC=1C(=NN2C1SC(=C2C(=O)O)SC)C | C13H17N3O4S2
reactant | potassium hydroxide | 0.53 mmol, 34.7 mg | [OH-].[K+]
reactant | bromine | 0.58 mmol, 29.6 μL | BrBr | Br2
catalyst | silver carbonate | 0.55 mmol, 93.6 mg | C([O-])([O-])=O.[Ag+2]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl[3-bromo-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.25 mmol, 94.0 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2Br)SC)C)=O | C12H16BrN3O2S2
